US07888364B2
Procedure F was performed using 60 mg of 6-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methylnicotinamide and 116 μL of R-(−)-1-amino-2-propanol in 0.5 mL of BuOH. Purified by reverse phase HPLC to yield (R)-N-(4-chloro-3-(pyridin-2-yl)phenyl)-6-(2-hydroxypropylamino)-2-methylnicotinamide. MS (Q1) 397.4 (M)+.

reactant | 6-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methylnicotinamide | 60 mg | ClC1=NC(=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=C1)C | C18H13Cl2N3O
reactant | R-(−)-1-amino-2-propanol | 116 μL | C[C@H](CN)O | C3H9NO
solvent | BuOH | 0.5 mL | C(CCC)O | C4H10O
product | (R)-N-(4-chloro-3-(pyridin-2-yl)phenyl)-6-(2-hydroxypropylamino)-2-methylnicotinamide | ClC1=C(C=C(C=C1)NC(C1=C(N=C(C=C1)NC[C@@H](C)O)C)=O)C1=NC=CC=C1 | C21H21ClN4O2
